US07790747B2
To a solution of 3-methylpyrazole (156 mg, 1.90 mmol) in DMF (2 ml) was added NaH (60% dispersion in oil, 76 mg, 1.9 mmol) and the reaction stirred at room temperature for 30 min. before adding 2-chloro-5-bromo-4,6-dimethylpyridine (227 mg, 1.03 mmol) as a solid in one portion. The mixture was heated to 85° C. for 2 d then cooled and diluted with EtOAc (35 ml) and brine (20 ml). The organic layer was washed with brine (2×15 ml) and water (1×10 ml), dried (Na2SO4), concentrated and purified by column chromatography on silica gel (Hexanes/Et2O, 9:1) to afford 3-bromo-2,4-dimethyl-6-(3-methyl-pyrazol-1-yl)-pyridine (172 mg, 63%) as a white crystalline solid. 1H NMR (CDCl3) δ 2.36 (s, 3H), 2.44 (s, 3H), 2.65 (s, 3H), 6.23 (d, 1H, J=3 Hz), 7.62 (s, 1H), 8.41 (d, 1H, J=3 Hz).

reactant | 3-methylpyrazole | 1.90 mmol, 156 mg | CC1=NNC=C1 | C4H6N2
reactant | NaH | 1.9 mmol, 76 mg | [H-].[Na+]
reactant | 2-chloro-5-bromo-4,6-dimethylpyridine | 1.03 mmol, 227 mg | ClC1=NC(=C(C(=C1)C)Br)C | C7H7BrClN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
solvent | brine | 20 ml | [Cl-].[Na+].O
product | 3-bromo-2,4-dimethyl-6-(3-methyl-pyrazol-1-yl)-pyridine | 172 mg, 63% | BrC=1C(=NC(=CC1C)N1N=C(C=C1)C)C | C11H12BrN3
